US04929622
10-Chloro-1,2,3,4,5,6,7,8-octahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine
To a stirred solution of 1.50 g of 10-chloro-1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine and 14 ml of acetic acid, cooled to 15° C. under nitrogen, was added, 1.00 g of sodium cyanoborohydride, with stirring. The reaction mixture was stirred an additional 6.75 hr and water was added. The solution was made basic (pH 12) with 50% aqueous sodium hydroxide solution. The mixture was extracted with ether and the combined organic layers were washed with brine, dried over anhydrous potassium carbonate and filtered. The filtrate was concentrated. The residue was dissolved in 15 ml acetic acid and, as above, treated with 1.63 g of sodium cyanoborohydride for 5 hr. The residue was purified by flash column chromatography (silica gel, 2% triethylamine/0-10% methanol/ether) to afford 1.04 g (69%) of product. Recrystallization from ether-dichloromethane afforded the analytical sample, mp 168°-170° C.

reactant | 10-chloro-1,2,3,4,5,6-hexahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 1.50 g | ClC=1CN=CC2(C3=C(C1)C1=C(CC3)N(C(C1)C2C)C)C | C17H21ClN2
reactant | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 1.00 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 10-Chloro-1,2,3,4,5,6,7,8-octahydro-3,6,12-trimethyl-2,6-methano-9H-pyrrolo[3,2-h][3]benzazocine | 1.04 g, 69% | ClC=1CNCC2(C3=C(C1)C1=C(CC3)N(C(C1)C2C)C)C | C17H23ClN2
